US07598240B2
Sodium hydroxide (24.0 g) and water (450 ml) were added to 5-(4-methoxyphenyl)-2-oxopentanoic acid (66.6 g) (the compound of Reference Example 2), and the resulting mixture was ice-cooled. When to this slurry was added sodium tetrahydroborate (3.99 g) in portions, the reaction mixture once became clear. After the reaction mixture was stirred for 2 hours, a 3N aqueous hydrochloric acid solution (300 ml) was added thereto, followed by extraction with ethyl acetate (300 ml×twice). The organic layer was washed with water (100 ml×three times) and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure to obtain 2-hydroxy-5-(4-methoxyphenyl)pentanoic acid (63.4 g) as a crude product.

reactant | Sodium hydroxide | 24.0 g | [OH-].[Na+]
reactant | 5-(4-methoxyphenyl)-2-oxopentanoic acid | 66.6 g | COC1=CC=C(C=C1)CCCC(C(=O)O)=O | C12H14O4
reactant | sodium tetrahydroborate | 3.99 g | [BH4-].[Na+]
reactant | hydrochloric acid | 3N, 300 ml | Cl | ClH
solvent | water | 450 ml | O | H2O
product | 2-hydroxy-5-(4-methoxyphenyl)pentanoic acid | 63.4 g | OC(C(=O)O)CCCC1=CC=C(C=C1)OC | C12H16O4
